US03943141
b. 1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.5 g) and N,N'-carbonyldiimidazole (0.31 g) in dimethylformamide (50 ml) were warmed at 60° for 1 hour. 5-Amino-1H-tetrazol (0.16 g) was added and the solution was stirred at 60° for 2 hours and cooled. The solid was collected and crystallised from dimethylformamide and had m.p. 245°-246° (d).

reactant | 1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.5 g | COCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C13H14N2O4
reactant | 5-Amino-1H-tetrazol | 0.16 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,4-Dihydro-1-(2-methoxyethyl)-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | COCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)NC1=NN=NN1 | C14H15N7O3
